US06060459
Preparation of Butyryl-2'-deoxyguanosine
This compound was prepared using the procedure for palmitoyl-2'-deoxyguanosine, substituting the appropriate amount of butyryl chloride for palmitoyl chloride, and isolating as follows: evaporating the solvent after 72 hours, triturating the resulting material in 1:1 diethyl ether-ethyl acetate, and recovering the product by filtration.

reactant | palmitoyl-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C26H43N5O5
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | Butyryl-2'-deoxyguanosine | C(CCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C14H19N5O5
